US07557244B2
e) Trifluoro-methanesulfonic acid 5-[1-(4-benzyl-2-oxo-oxazolidine-3-carbonyl)-3-methyl-butyl]-4′-trifluoromethyl-biphenyl-3-yl ester
To a solution of 4-benzyl-3-[2-(5-hydroxy-4′-trifluoromethyl-biphenyl-3-yl)-4-methyl-pentanoyl]-oxazolidin-2-one (32 g, 62.6 mmol) in dichloromethane (170 mL) was added pyridine (15.0 mL). The system was cooled to 0° C. To this cold solution was added trifluoromethanesulfonic anhydride (16 mL, 94 mmol) maintaining the internal temperature below 5° C. and stirred for further 0.5 h at 0° C. This reaction mixture was poured to a mixture of 1 N HCl (100 mL), and wet-ice (25 g) and stirred for 0.5 h. The aqueous layer was extracted with dichloromethane (2×100 mL). Combined fractions were washed with water (2×100 mL), saturated aqueous NaHCO3 solution (2×100 mL), and brine (2×100 mL). The organics were dried (MgSO4) and concentrated in vacuo to receive a reddish liquid which was purified by ISCO column chromatography to receive trifluoro-methanesulfonic acid 5-[1-(4-benzyl-2-oxo-oxazolidine-3-carbonyl)-3-methyl-butyl]-4′-trifluoromethyl-biphenyl-3-yl ester (34 g, 84%).

reactant | 4-benzyl-3-[2-(5-hydroxy-4′-trifluoromethyl-biphenyl-3-yl)-4-methyl-pentanoyl]-oxazolidin-2-one | 62.6 mmol, 32 g | C(C1=CC=CC=C1)C1N(C(OC1)=O)C(C(CC(C)C)C=1C=C(C=C(C1)O)C1=CC=C(C=C1)C(F)(F)F)=O | C29H28F3NO4
reactant | pyridine | 15.0 mL | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 94 mmol, 16 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | HCl | 1 N, 100 mL | Cl | ClH
solvent | dichloromethane | 170 mL | ClCCl | CH2Cl2
product | Trifluoro-methanesulfonic acid 5-[1-(4-benzyl-2-oxo-oxazolidine-3-carbonyl)-3-methyl-butyl]-4′-trifluoromethyl-biphenyl-3-yl ester | C(C1=CC=CC=C1)C1N(C(OC1)=O)C(=O)C(CC(C)C)C=1C=C(C=C(C1)C1=CC=C(C=C1)C(F)(F)F)OS(=O)(=O)C(F)(F)F | C30H27F6NO6S
